FM
*SPICE Netlist generated by Advanced Sim server on 22/06/2026 07:19:50 p. m.
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 0.1u
CC2 NetC2_1 NetC2_2 0.1u
CC3 0 NetC3_2 47u
CC4 0 NetC3_2 0.1u
CC5 NetC5_1 NetC5_2 30p
CC6 0 NetC5_1 15p
CC7 NetC7_1 NetC5_2 68p
CC8 0 NetC7_1 0.1n
CC9 0 NetC9_2 1n
CC10 NetC10_1 NetC10_2 0.1n
CC11 0 NetC3_2 1n
CC12 NetC12_1 NetC12_2 30p
CC13 NetC12_1 0 0.1n
CC14 NetC14_1 0 30p
DD1 NetD1_1 0 diode
LL1 0 NetC5_1 80n
LL2 NetC10_2 NetC9_2 50n
LL3 NetC12_2 NetC3_2 50n
LL4 NetC12_1 NetC14_1 100n
QQ1 NetQ1_1 NetC1_2 0  S9014
QQ2 NetC10_2 NetC5_2 NetC7_1  S9018
QQ3 NetC12_2 NetC10_1 0  S9018
RR1 NetC1_1 NetC3_2 10K TC1=0 TC2=0
RR2 NetC1_2 NetQ1_1 100K TC1=0 TC2=0
RR3 NetQ1_1 NetC3_2 10K TC1=0 TC2=0
RR4 NetC2_1 NetQ1_1 5K TC1=0 TC2=0
RR5 NetC3_2 NetD1_1 10K TC1=0 TC2=0
RR6 NetC5_2 NetC2_2 22k TC1=0 TC2=0
RR7 NetC9_2 NetC5_2 47K TC1=0 TC2=0
RR8 NetC3_2 NetC9_2 100 TC1=0 TC2=0
RR9 NetC7_1 0 470 TC1=0 TC2=0
RR10 NetC10_1 NetC12_2 47K TC1=0 TC2=0
VV1 NetC1_1 0 DC 5 SIN(0 5m 1k 0 0 0) AC 1 0
VV2 NetC3_2 0 9 AC 1 0

.PROBE {V(NetC14_1)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(0, 0, 255)

*Selected Circuit Analyses:
.AC DEC 250 10000K 1G

*Models and Subcircuits:
.MODEL diode D ()

.SYNTAX PSPICE
.MODEL S9014 NPN (
+ IS=2.68E-14 BF=320 NF=1.0 VAF=80 IKR=0.14
+ ISE=1.2E-14 NE=1.5 BR=4 NR=1.0 VAR=20
+ IKR=0.01 ISC=0 NC=2 RB=10 IRB=0.1
+ RBM=1 RE=0.4 RC=0.8 CJE=2.2E-11 VJE=0.75
+ MJE=0.33 CJC=7.5E-12 VJC=0.75 MJC=0.33
+ TF=5E-10 TR=1E-8 EG=1.11 XTI=3 VCEO=45
+ ICRATING=100m mfg=Fairchild)
.ENDSYNTAX

.SYNTAX PSPICE
.MODEL S9018 NPN (
+ IS=3f XCJC=0.1 XTI=3 VAF=75 BF=102 NE=2
+ ISE=0.8p IKF=250m XTB=1.5 BR=0.3 NC=2
+ ISC=0.8p IKR=10m RC=3.5 CJC=1.8p MJC=0.15
+ VJC=0.8 FC=0.5 CJE=1.5p MJE=0.5 VJE=0.8
+ TR=2n TF=110p ITF=13m VTF=1.7 XTF=3
+ RB=60 VCEO=15 ICRATING=50m mfg=Fairchild)
.ENDSYNTAX

.END